US04667032
4-Bromo-1,7-dimethoxy-3-H-phenothiazin-3-one
To a suspension of 1,7-dimethoxy-3H-phenothiazin-3-one (300 mg) in acetic acid (9 ml) was added a 0.63M solution of Br2 in acetic acid (1.92 ml). After 15 minutes, methanol was added and the solid filtered, washed with ether and air dried to afford the title compound (353 mg), m.p. 267°-270° C. (dec).

reactant | 1,7-dimethoxy-3H-phenothiazin-3-one | 300 mg | COC1=CC(C=C2SC3=CC(=CC=C3N=C12)OC)=O | C14H11NO3S
reactant | Br2 | BrBr | Br2
reactant | methanol | CO | CH4O
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.92 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-1,7-dimethoxy-3-H-phenothiazin-3-one | 353 mg | BrC=1C(C=C(C2=NC3=CC=C(C=C3SC12)OC)OC)=O | C14H10BrNO3S
